US04183741
1-Aminopyridinium chloride (7.9g) was added to potassium hydroxide (6.72g) in water (60 ml). 4-Cyanopyridine (31.2g) was added to ethanol (63 ml). The two solutions were then admixed at room temperature and left for 66 hours. The ethanol was then evaporated off in vacuo, and the residue extracted with chloroform (100 ml). The chloroform extract was dried over magnesium sulphate, filtered, and evaporated in vacuo. Recrystallisation of the product from ethanol gave 2-(4-pyridyl)-s-triazolo[1,5-a]pyridine (6.3g), mp 188°-190° C.

reactant | 1-Aminopyridinium chloride | 7.9g | [Cl-].N[N+]1=CC=CC=C1
reactant | potassium hydroxide | 6.72g | [OH-].[K+]
reactant | 4-Cyanopyridine | 31.2g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | ethanol | 63 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 2-(4-pyridyl)-s-triazolo[1,5-a]pyridine | 6.3g | N1=CC=C(C=C1)C1=NN2C(C=CC=C2)=N1 | C11H8N4
